US08017611B2
Benzotriazol-1-yl-[bis(dimethylamino)methylene]oxonium tetrafluoroborate (96 mg) was added to a stirred suspension of 3-oxazolo[4,5-b]pyridin-2-yl-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (90 mg), 2-dimethylaminoacetic acid (27.0 mg) and 4-methylmorpholine (0.055 ml) in NMP (1 ml) at 25° C. The resulting solution was stirred at 25° C. for 2 hours. The reaction mixture was purified by preparative HPLC using a Waters OBD reverse-phase column (C-18, 5 microns silica, 19 mm diameter, 100 mm length, flow rate of 40 ml/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness, the solid was taken up in dichloromethane, dried over Magnesium sulphate, filtered and concentrated. A precipitate appeared which was diluted with diethyl ether, the solid was collected by filtration, washed with petroleum ether then triturated several hours with acetonitrile, filtered and dried under vacuum at 50° C. overnight to afford 1-[4-[4-(6-amino-5-oxazolo[4,5-b]pyridin-2-yl-3-pyridyl)pyrazol-1-yl]-1-piperidyl]-2-dimethylamino-ethanone (50.0 mg) as a solid. NMR Spectrum: (DMSOd6) 1.74-1.85 (m, 1H), 1.86-1.97 (m, 1H), 2.05-2.15 (m, 2H), 2.21 (s, 6H), 2.72-2.83 (m, 1H), 3.01-3.10 (m, 1H), 3.12-3.23 (m, 2H), 4.14-4.25 (m, 1H), 4.39-4.52 (m, 2H), 7.48 (dd, 1H), 7.68 (bs, 2H), 7.95 (s, 1H), 8.23 (dd, 1H), 8.36 (s, 1H), 8.47 (d, 1H), 8.56 (dd, 1H), 8.59 (d, 1H); Mass spectrum: M+H+ 447;

reactant | Benzotriazol-1-yl-[bis(dimethylamino)methylene]oxonium tetrafluoroborate | 96 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)[O+]=C(N(C)C)N(C)C
reactant | 3-oxazolo[4,5-b]pyridin-2-yl-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 90 mg | O1C(=NC2=NC=CC=C21)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCNCC2)N | C19H19N7O
reactant | 2-dimethylaminoacetic acid | 27.0 mg | CN(CC(=O)O)C | C4H9NO2
reactant | 4-methylmorpholine | 0.055 ml | CN1CCOCC1 | C5H11NO
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 1-[4-[4-(6-amino-5-oxazolo[4,5-b]pyridin-2-yl-3-pyridyl)pyrazol-1-yl]-1-piperidyl]-2-dimethylamino-ethanone | 50.0 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CCN(CC1)C(CN(C)C)=O)C=1OC=2C(=NC=CC2)N1 | C23H26N8O2
